US05753664
3-[4-(4-Chlorobenzoyl)benzylamino]-1-propanol
To a solution of 3-amino-l-propanol (3.00 g) in ethanol (40 ml) was added 4-(4-chlorobenzoyl)benzyl bromide (3.10 g) and the mixture was refluxed for 4.5 hours. After cooling to room temperature, the solvent was distilled off under reduced pressure and the residue was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developed with chloroform: methanol=9:1) to provide the title compound as white powder (1.36 g; yield 45%). 1H-NMR (CDCl3) δ: 1.76(2H,q,J=5.6Hz), 2.29(2H,m), 2.93(2H,t,J=5.6Hz), 3.83(2H,t,J=5.6Hz), 3.90(2H,s), 7.41-7.50(4H,m), 7.71-7.78(4H,m).

reactant | 3-amino-l-propanol | 3.00 g | NCCCO | C3H9NO
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 3.10 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-[4-(4-Chlorobenzoyl)benzylamino]-1-propanol | 1.36 g, yield 45% | ClC1=CC=C(C(=O)C2=CC=C(CNCCCO)C=C2)C=C1 | C17H18ClNO2
